US08003649B2
Preparation of 6-[4-(pyridin-2-ylsulfonyl)piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine
Obtained in 32% yield by an analogous method to Example 394, starting from pyridine-2-sulfonyl chloride and 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | pyridine-2-sulfonyl chloride | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
product | 6-[4-(pyridin-2-ylsulfonyl)piperazin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 32% yield | N1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C15H14F3N7O2S
